US05712267
54(a)(i) trans-4-Methanesulfonyloxy-1-(4-nitrobenzyl-oxycarbonyl)-L-proline
12.20 ml of triethylamine and 6.81 ml of methanesulfonyl chloride were added, whilst ice-cooling, to a solution of 12.41 g of trans-4-hydroxy-1-(4-nitro-benzyloxycarbonyl)-L-proline in 100 ml of dry tetrahydrofuran, and the resulting mixture was stirred at the same temperature for 40 minutes. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and the residue was mixed with 350 ml of ethyl acetate and 50 ml of 1N aqueous hydrochloric acid. The mixture was then stirred at room temperature for 2.5 hours, after which the organic layer was separated and washed three times with an aqueous solution of sodium chloride; it was then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, to give 12.57 g of the title compound, as a powder.

reactant | triethylamine | 12.20 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6.81 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | trans-4-hydroxy-1-(4-nitro-benzyloxycarbonyl)-L-proline | 12.41 g | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C13H14N2O7
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | trans-4-Methanesulfonyloxy-1-(4-nitrobenzyl-oxycarbonyl)-L-proline | 12.57 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C14H16N2O9S
